US04276304
570 mg of 2-benzyloxyphenylglyoxal hydrate are dissolved in 0.5 ml of dimethylsulfoxide, and a solution of 450 mg of α,α-dimethyl-3,4-dimethoxyphenethylamine in 0.7 ml of dimethylsufoxide is added thereto. The mixture is stirred at 20° C. for 2 hours, whereby a solution of α-(α,α-dimethyl-3,4-dimethoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsufoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 570 mg | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-3,4-dimethoxyphenethylamine | 450 mg | CC(CC1=CC(=C(C=C1)OC)OC)(C)N | C12H19NO2
solvent | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-3,4-dimethoxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=CC(=C(C=C1)OC)OC)(C)N=C(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C27H29NO4
